US05227539
a) Preparation of the potasssic salt of 1,1,1,3,3,4,4,4-octafluoro-2-(trifluoromethyl)-2-butanol (I) (CF3CF2)(CF3)2C--OK
By operating as in the above examples, 0.26 g of KF (4.5 mmol) was charged to the reactor, and then 4.0 ml of anhydrous acetonitrile was injected through the pierceable cap; the whole was then cooled down to -196° C. with the residual air being evacuated; then, 2.0 mmol of pentafluoropropionyl fluoride

reactant | KF | 4.5 mmol, 0.26 g | [F-].[K+]
reactant | pentafluoropropionyl fluoride | 2.0 mmol | FC(C(=O)F)(C(F)(F)F)F | C3F6O
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
product | 1,1,1,3,3,4,4,4-octafluoro-2-(trifluoromethyl)-2-butanol | FC(C(C(C(F)(F)F)(F)F)(O)C(F)(F)F)(F)F | C5HF11O
